USH0001401
Step C: Preparation of 2-(Trimethylsilyl)benzyl bromide
Bromine (1.07 g, 6.7 mmol) was slowly added to a cooled solution of triphenylphosphine (1.83 g, 7.0 mmol) in acetonitrile to maintain a temperature less than or equal to 5° C. A solution of 2-(trimethylsilyl)benzyl alcohol in acetonitrile (10 mL) was slowly introduced and the resulting mixture was allowed to warm to room temperature and stir. Thin layer chromatography after 20 min indicated no starting material remained. The mixture was diluted with diethyl ether (50 mL) and washed with H2O (two-times with 20 mL), dried (MgSO4) and concentrated under vacuum to yield an opaque oil, 2.5 g. Purification by column chromatography (100 g SiO2 eluting with hexanes) provided the product of Step C as a clear, colorless oil, 1.12 g; (69%); IR (neat): 2954, 1250, 1216, 1110 cm-1 ; 1H NMR (CDCl3); δ7.5-7.3 (m,4H), 4.6 (s,2H), 0.4 (s,9H).

reactant | Bromine | 6.7 mmol, 1.07 g | BrBr | Br2
reactant | triphenylphosphine | 7.0 mmol, 1.83 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(trimethylsilyl)benzyl alcohol | C[Si](C1=C(CO)C=CC=C1)(C)C | C10H16OSi
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 2-(Trimethylsilyl)benzyl bromide | C[Si](C1=C(CBr)C=CC=C1)(C)C | C10H15BrSi
